US03931151
A mixture of 11.35 g of 2-ethylthio-5-methyl-11-(p-nitrophenoxycarbonyl)methyl [5H] dibenzo (b,f) azepine in 45 ml of chloroform was stirred until dissolution occured and a solution of 12 ml of dimethylamine in 45 ml of chloroform was added dropwise thereto in 10 minutes. The mixture was stirred for 1 hour at room temperature and then was poured into 250 ml of ice and water. The organic phase was recovered by decanting and was washed with water, dried over magnesium sulfate and distilled to dryness under reduced pressure to obtain 9 g of 2-ethylthio-5-methyl-11-dimethylcarbamoylmethyl [5H] dibenzo (b,f) azepine which was used as is for the next step. The product occured as a yellow oil soluble in chloroform, ethanol and ethyl acetate and insoluble in water.

reactant | 2-ethylthio-5-methyl-11-(p-nitrophenoxycarbonyl)methyl [5H] dibenzo (b,f) azepine | 11.35 g | C(C)SC1=CC2=C(N(C3=C(C=C2CC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C3)C)C=C1 | C25H22N2O4S
reactant | dimethylamine | 12 ml | CNC | C2H7N
reactant | water | O | H2O
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethylthio-5-methyl-11-dimethylcarbamoylmethyl [5H] dibenzo (b,f) azepine | 9 g | C(C)SC1=CC2=C(N(C3=C(C=C2CC(N(C)C)=O)C=CC=C3)C)C=C1 | C21H24N2OS
